US09227978B2
1-(3-(4-(2-(4-Chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one
A mixture of tert-butyl 3-(4-(2-(4-chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate (102 mg, 0.212 mmol) in HCl/MeOH (2.86 M, 5 mL) was stirred at RT for 1 h. The mixture was concentrated in vacuo to afford the crude product, the crude was dissolved in DMF (5 mL) at RT, acrylic acid (17 mg, 0.233 mmol), BOP (113 mg, 0.254 mmol) and DIEA (82 mg, 0.636 mmol) were added and the resulting mixture was stirred at RT for 1 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (77 mg, 85% yield, 2 steps). ESI-MS m/z: 435.4[M+H]+.

reactant | tert-butyl 3-(4-(2-(4-chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 0.212 mmol, 102 mg | ClC1=CC(=C(C=C1C(C)C)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)OC | C24H37ClN4O4
reactant | acrylic acid | 0.233 mmol, 17 mg | C(C=C)(=O)O | C3H4O2
reactant | BOP | 0.254 mmol, 113 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.636 mmol, 82 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | HCl MeOH | 2.86 M, 5 mL | Cl.CO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(3-(4-(2-(4-Chloro-5-isopropyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one | 77 mg, 85% yield | ClC1=CC(=C(C=C1C(C)C)NCC(=O)N1CCN(CC1)C1CN(C1)C(C=C)=O)OC | C22H31ClN4O3
